US07476666B2
Step 3: Ethyl 3-benzyloxy-7-chloroacetyl-5-methyl-4-oxo-4,5,6,7-tetrahydropyrazolo[1,5-a]pyrazine-2-carboxylate
To a solution of ethyl 3-benzyloxy-7-diazoacetyl-5-methyl-4-oxo-4,5,6,7-tetrahydropyrazolo[1,5-a]pyrazine-2-carboxylate (90 mg, 0.226 mmol) in Et2O (5 mL) and anhydrous CH2Cl2 (5 mL) was added 1.0M HCl in Et2O (272 μL, 0.272 mmol). The reaction was stirred at room temperature for 15 minutes, and the solvent was removed in vacuo to afford the title product as a yellow solid. 1H NMR (400 MHz, d6-DMSO) δ 7.49-7.48 (m, 2H), 7.39-7.30 (m, 3H), 7.12 (br s, 1H), 6.03 (s, 1H), 5.57 (s, 1H), 5.22 (dd, J=11.4, 26.0 Hz, 2H), 4.28-4.24 (m, 2H), 4.09 (dd, J=4.6, 13.4 Hz, 1H), 3.88 (dd, J=4.6, 13.4 Hz, 1H), 2.98 (s, 3H), 1.26 (t, J=7.2, 3H); ES MS (M+Na)=428.

reactant | ethyl 3-benzyloxy-7-diazoacetyl-5-methyl-4-oxo-4,5,6,7-tetrahydropyrazolo[1,5-a]pyrazine-2-carboxylate | 0.226 mmol, 90 mg | C(C1=CC=CC=C1)OC=1C(=NN2C1C(N(CC2C(C=[N+]=[N-])=O)C)=O)C(=O)OCC | C19H19N5O5
reactant | HCl | 1.0M | Cl | ClH
solvent | Et2O | 5 mL | CCOCC | C4H10O
solvent | CH2Cl2 | 5 mL | C(Cl)Cl | CH2Cl2
solvent | Et2O | 0.272 mmol, 272 μL | CCOCC | C4H10O
product | Ethyl 3-benzyloxy-7-chloroacetyl-5-methyl-4-oxo-4,5,6,7-tetrahydropyrazolo[1,5-a]pyrazine-2-carboxylate | C(C1=CC=CC=C1)OC=1C(=NN2C1C(N(CC2C(CCl)=O)C)=O)C(=O)OCC | C19H20ClN3O5
